US05236919
Using the procedure described in Example 1, 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one was reacted with (2RS, 4RS)-4-(3-amino-5-hydroxyphenyl)-4-methoxy-2-methyltetrahydropyran to give (2RS, 4RS)-4-[3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethylamino)-5-hydroxyphenyl]-4-methoxy-2-methyltetrahydropyran in 46% yield, as an oil.

reactant | 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | (2RS, 4RS)-4-(3-amino-5-hydroxyphenyl)-4-methoxy-2-methyltetrahydropyran | NC=1C=C(C=C(C1)O)C1(CC(OCC1)C)OC | C13H19NO3
product | (2RS, 4RS)-4-[3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethylamino)-5-hydroxyphenyl]-4-methoxy-2-methyltetrahydropyran | 46% yield | CN1C(C=CC2=CC(=CC=C12)CNC=1C=C(C=C(C1)O)C1(CC(OCC1)C)OC)=O | C24H28N2O4
